US08703978B2
Methyl 1,4-dihydroxynapthalene-2-carboxylate
1,4-Dihydroxy-2-naphthoic acid (10 g, 49 mmol) and NaHCO3 (4.12 g, 49 mmol) was dissolved in DMF (dimethylformamide) (50 mL). Methyl iodide (6.96 g, 49 mmol) was added and the solution stirred at room temperature for 24 h, poured into water (1 L), filtered and washed with water to give the title compound (8.80 g, 82%) as a green powder.

reactant | 1,4-Dihydroxy-2-naphthoic acid | 49 mmol, 10 g | OC1=C(C=C(C2=CC=CC=C12)O)C(=O)O | C11H8O4
reactant | NaHCO3 | 49 mmol, 4.12 g | C(=O)(O)[O-].[Na+]
reactant | Methyl iodide | 49 mmol, 6.96 g | CI | CH3I
reactant | water | 1 L | O | H2O
solvent | DMF | 50 mL | CN(C=O)C | C3H7NO
product | Methyl 1,4-dihydroxynapthalene-2-carboxylate | 8.80 g, 82% | OC1=C(C=C(C2=CC=CC=C12)O)C(=O)OC | C12H10O4
